US08735384B2
A Smith synthesizer vial containing 6-(2-(chloro(phenyl)methyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine hydrochloride (0.050 g, 0.104 mmol) and ACN (0.42 mL) was treated with pyrrolidine (0.052 mL, 0.624 mmol). The reaction mixture was warmed to 100° C. for 1 h and then allowed to cool to RT. The mixture was purified by HPLC (1-70% ACN/H2O, TFA modifier). A single clean fraction was treated with NH4OH and concentrated to ¼ volume. The resulting precipitate was collected and dried under a stream of N2 to afford 6-(2-methyl-6-(phenyl(pyrrolidin-1-yl)methyl)phenyl)-3-morpholinoquinolin-2-amine. MS (ESI, pos. ion) m/z: 479 (M+1).

reactant | 6-(2-(chloro(phenyl)methyl)-6-methylphenyl)-3-morpholinoquinolin-2-amine hydrochloride | 0.104 mmol, 0.050 g | Cl.ClC(C1=C(C(=CC=C1)C)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1)C1=CC=CC=C1
reactant | pyrrolidine | 0.624 mmol, 0.052 mL | N1CCCC1 | C4H9N
solvent | ACN | 0.42 mL | C(C)#N | C2H3N
product | 6-(2-methyl-6-(phenyl(pyrrolidin-1-yl)methyl)phenyl)-3-morpholinoquinolin-2-amine | CC1=C(C(=CC=C1)C(N1CCCC1)C1=CC=CC=C1)C=1C=C2C=C(C(=NC2=CC1)N)N1CCOCC1 | C31H34N4O
